US08466282B2
Tert-butyl (3S,5R)-3-{(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
2-(Trichloromethyl)-1H-benzimidazole (2.00 g) and tert-butyl (3S,5R)-3-{(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (2.84 g) were dissolved in tetrahydrofuran-water (3:2,150 ml), sodium hydrogen carbonate (6.45 g) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The precipitated white solid was collected by filtration, washed with ethyl acetate-hexane (1:1) and dried to give the object product (3.03 g).

reactant | 2-(Trichloromethyl)-1H-benzimidazole | 2.00 g | ClC(C1=NC2=C(N1)C=CC=C2)(Cl)Cl | C8H5Cl3N2
reactant | tert-butyl (3S,5R)-3-{(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 2.84 g | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | sodium hydrogen carbonate | 6.45 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran water | 2,150 ml | O1CCCC1.O
product | Tert-butyl (3S,5R)-3-{(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 3.03 g | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
